US06747023B1
2-Amino-4-(4-methylphenyl)pyridine
Under an argon gas, 4-(4-methylphenyl)pyridine (2.74 g) was dissolved in N,N-dimethylaniline (10 ml), followed by the addition of sodium amide (1.40 g) at room temperature. After the resulting mixture was stirred at 110° C. for 2 days, the reaction mixture was cooled to room temperature. Brown powder precipitated by the addition of water was collected by filtration. The powder was further purified by chromatography on a silica gel column (ethyl acetate:toluene=1:1). After concentration of the resulting fraction, hexane was added and powder thus precipitated was collected by filtration and dried, whereby the title compound (1.40 g, 47%) was obtained.

reactant | 4-(4-methylphenyl)pyridine | 2.74 g | CC1=CC=C(C=C1)C1=CC=NC=C1 | C12H11N
reactant | sodium amide | 1.40 g | [NH2-].[Na+]
solvent | N,N-dimethylaniline | 10 ml | CN(C1=CC=CC=C1)C | C8H11N
product | 2-Amino-4-(4-methylphenyl)pyridine | 1.40 g, 47% | NC1=NC=CC(=C1)C1=CC=C(C=C1)C | C12H12N2
